US05703052
(1α,3β,5α,25R)-1,3-di(hydroxy)spirostane
Lithium aluminum hydride (0.43 g, 15.38 mmol) was added to a solution of (1α,2α,5α,25R)-1,2-epoxy-spirostan-3-one in THF (20 mL) at 0° C. The reaction was gradually warmed to room temperature and after 3 hours, additional lithium aluminum hydride (0.10 g, 3.58 mmol) was added. After 1 hour, the reaction was cooled to 0° C. and quenched by the sequential addition of H2O (0.75 mL), 15% NaOH (0.75 mL), and H2O (1.50 mL). The mixture was dried with MgSO4, filtered, and concentrated in vacuo. The product was purified by flash chromatography (50% EtOAc/50% hexane to 95% EtOAc/5%MeOH) to afford 0.460 g, (34%) of the title compound.

reactant | Lithium aluminum hydride | 15.38 mmol, 0.43 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (1α,2α,5α,25R)-1,2-epoxy-spirostan-3-one | O1[C@H]2[C@@H]1C(C[C@@H]1CC[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4(CC[C@@H]3[C@@]21C)C)=O | C27H40O4
reactant | lithium aluminum hydride | 3.58 mmol, 0.10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (1α,3β,5α,25R)-1,3-di(hydroxy)spirostane | 34% | O[C@H]1C[C@@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4(CC[C@@H]3[C@@]12C)C)O | C27H44O4
